US09193935B2
2.8: (3,7-Dimethylocta-2,6-dienyl)benzene
Starting from phenethyltriphenylphosphonium bromide (3.48 g, 7.78 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.9 mL, 7.78 mmol, 1.0 equiv.) and 6-methylhept-5-en-2-one (1.48 g, 11.7 mmol, 1.5 equiv.), 0.29 g (17%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane).

reactant | phenethyltriphenylphosphonium bromide | 7.78 mmol, 3.48 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 7.78 mmol, 1.6 M, 4.9 mL, 1.0 equiv. | [Li]CCCC
reactant | 6-methylhept-5-en-2-one | 11.7 mmol, 1.48 g, 1.5 equiv. | CC(=CCCC(C)=O)C | C8H14O
product | (3,7-Dimethylocta-2,6-dienyl)benzene | 0.29 g, 17% | CC(=CCC1=CC=CC=C1)CCC=C(C)C | C16H22
